US06410539B1
A mixture of methyl 5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethylaminomethyl]-2-(4-fluorobenzyl)benzoate (1.5 g) sodium hydroxide (0.65 g), water (10 ml) and methanol (50 ml) was stirred under an inert atmosphere at ambient temperature for 2 hours. It was then acidified to pH 4-5 with 1M citric acid and evaporated to dryness. The residue was partitioned between ethyl acetate and water, the organic layer separated, treated with saturated brine, dried and evaporated to dryness to give 5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethylaminomethyl]-2-(4-fluorobenzyl)benzoic acid as a white foam (1.0 g).

reactant | methyl 5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethylaminomethyl]-2-(4-fluorobenzyl)benzoate | 1.5 g | FC1=CC=C(C=C1)C(C=1C=CC(=C(C(=O)OC)C1)CC1=CC=C(C=C1)F)NCCN1C=NC=C1 | C27H25F2N3O2
reactant | water | 10 ml | O | H2O
reactant | citric acid | 1M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 50 ml | CO | CH4O
product | 5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethylaminomethyl]-2-(4-fluorobenzyl)benzoic acid | 1.0 g | FC1=CC=C(C=C1)C(C=1C=CC(=C(C(=O)O)C1)CC1=CC=C(C=C1)F)NCCN1C=NC=C1 | C26H23F2N3O2
